US04343813
trans-N-Decyl-2-[4-(4-carboxy-2-oxo-pyrrolidino)-phenyl]cyclopropanecarboxamide
The title compound was prepared from trans-N-decyl-2-(4-aminophenyl)cyclopropanecarboxamide and itaconic acid, substantially according to the procedure of Example 10. It was recrystallized twice from ethanol to give a 47% yield of material having a melting point of 214°-215° C. The infrared spectrum (KBr disc) showed absorptions at 3280, 3125, 1680 and 1625 cm-1.

reactant | trans-N-decyl-2-(4-aminophenyl)cyclopropanecarboxamide | C(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)N | C20H32N2O
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | trans-N-Decyl-2-[4-(4-carboxy-2-oxo-pyrrolidino)-phenyl]cyclopropanecarboxamide | C(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)N1C(CC(C1)C(=O)O)=O | C25H36N2O4
